US08168658B2
Step B: 4-(1-amino-2-ethoxy-2-oxoethyl)benzoic acid.
Tert-butyl 4-{1-[(diphenylmethylene)amino]-2-ethoxy-2-oxoethyl}benzoate (17.4 g, 39.2 mmol) and 2N HCl (200 mL, 400 mmol) were stirred in diethyl ether (200 mL) at room temperature overnight. The aqueous phase was separated and concentrated in vacuo. The HCl salt was dissolved in water and 35 mL of 2N NaOH was added. The volume was reduced in vacuo and the resulting precipitate collected by filtration to give to give the desired product as a white solid. 1H NMR (DMSO-d6, 600 MHz) δ 7.88 (d, J=8.1 Hz, 2H), 7.47 (d, J=8.1 Hz, 2H), 4.60 (s, 1H), 4.04 (m, 2H), 1.09 (t, J=7.2 Hz, 3H). MS: cal'd 224 (MH+), exp 224 (MH+).

reactant | Tert-butyl 4-{1-[(diphenylmethylene)amino]-2-ethoxy-2-oxoethyl}benzoate | 39.2 mmol, 17.4 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C28H29NO4
reactant | HCl | 400 mmol, 2N, 200 mL | Cl | ClH
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-(1-amino-2-ethoxy-2-oxoethyl)benzoic acid | NC(C(=O)OCC)C1=CC=C(C(=O)O)C=C1 | C11H13NO4
